US09102664B2
Preparation of ((3R,5R)-5-(2,4-difluorophenyl)-5-(iodomethyl) tetrahydrofuran-3-yl)methanol (Formula-8)
A solution of (3S,5R)-5-(2,4-difluorophenyl)-5-(iodomethyl)tetrahydrofuran-3-carboxylic acid compound of formula-7 (150 g) in tetrahydrofuran (750 ml) was added to a pre-cooled solution of sodium borohydride (45.2 g) in tetrahydrofuran (750 ml) at 0-5° C., followed by BF3-etherate (172.29 g) at 0-5° C. Temperature of the reaction mixture was raised to 25-30° C. and stirred for 2 hours at the same temperature. After completion of the reaction, the reaction mixture was quenched with 5% aqueous hydrochloric acid. Added ethylacetate to the reaction mixture. Both organic and aqueous layers were separated and the aqueous layers were extracted with ethyl acetate. Both the organic layers were combined, washed with water followed by 10% sodium chloride solution and then distilled off the solvent to get the title compound as a residue. Yield: 140 g; purity by HPLC: 98.5%.

reactant | (3S,5R)-5-(2,4-difluorophenyl)-5-(iodomethyl)tetrahydrofuran-3-carboxylic acid | FC1=C(C=CC(=C1)F)[C@]1(C[C@@H](CO1)C(=O)O)CI | C12H11F2IO3
reactant | sodium borohydride | 45.2 g | [BH4-].[Na+]
reactant | BF3 | B(F)(F)F | BF3
solvent | tetrahydrofuran | 750 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 750 ml | O1CCCC1 | C4H8O
product | ((3R,5R)-5-(2,4-difluorophenyl)-5-(iodomethyl) tetrahydrofuran-3-yl)methanol | FC1=C(C=CC(=C1)F)[C@]1(C[C@@H](CO1)CO)CI | C12H13F2IO2
